datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[Zr:11]12345678([CH3:10])(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18>>CC[O:50][C:22](=[CH:21][CH:20]([CH3:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23].C[Zr+:11]12345678(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18 10,11=10,20;20,21=21,22;22,23=23"
"C1C[N:62]2CC[NH:12][C:11]2=[N:10]1.C[C:20]1=[CH:21][C:22](=[O:23])CCC1>>C[C:20]1([N:10]2CC[N:62]3CC[NH+:12]=[C:11]23)CCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:11](=[CH2:10])C1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH2:10][C+:11]2CCC2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:61]/[C:11](=[C:10](\C(C)C)[C:72](=[O:73])[O:83]CC)[O-:12].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>CC[O:61][C:11]([C:10](C(C)C)([CH:20]1CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64](C)=[C:63](C)[S:62]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64](C)=[C:63](C)[S:62]1)[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
C1=CC=C([C:61]([CH-:10][C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)=[O:62])C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1.C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[Si](C)(C)O[N+:12](O[Si](C)(C)C)=[C:11]([CH2:10][CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([C:10]#[C:11][N:12]2CCC[C:63]2=[O:64])C=C1.CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1>>CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20]([C:10](C3=CC=CC=C3)=[C:11]=[N+:12]3CCC[C:63]3=[O:64])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].COC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:72]2)C=C1>>CC1=CC=[C:10]([CH:20]([CH:21]=[C:22](C2=[N+](C3=C(F)C(F)=C(F)C(F)=C3F)C=CN2C)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)S1.COC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:72]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][CH:73]=[CH:72]2>>C[C:11]1=[NH+:12][C:62]2=[C:61]([CH:10]1[CH:20]([N:21]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:72]=[CH:73][CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21"
"CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C.F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34]>>CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH+:11][CH2:10][CH2:20][CH-:21][S:32](F)(=[O:33])=[O:34])OC1(C)C 10,11=10,20;20,21=21"
"C[C:11]1=[N:10][CH:61]=[C:62](C)[NH:12]1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21>>C[C:11]1=[NH+:12][C:62](C)=[CH:61][N:10]1[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][C:33]2=[C:34]3N(CCC2)CCC[C:35]3=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F.C[Si](C)(C)[N:12]1[CH:11]=[N:10][CH:64]=[CH:63]1>>C[N-:21]C1=CC=CC=C1.C[Si](C)(C)[N+:12]1=[CH:11][N:10]([S:20]C(F)(F)F)[CH:64]=[CH:63]1 10,11=10,20;12=11,12;20,21=21"
"CCCCCC[SiH2:11][H:10].Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CCCCCC[SiH2+:11].Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([H:10])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20"
